US06967196B1
To a solution of NaH (0.025 g, 1.03 mmol) in tetrahydrofuran (2 mL) was added ethanethiol (0.096 g, 1.54 mmol), followed by 4-chloro-N-[2,5-dichlorophenyl]-N-[(R)-1-methyl-4-bromobutyl]benzenesulfonamide (0.500 g 1.03 mmol) under nitrogen at 0° C. The reaction was stirred overnight at 22° C. The mixture was quenched with H2° (3 mL), extracted with ethyl ether (2×10 mL), dried over Na2SO4, and filtered. The organic solvent was concentrated under reduced pressure. Silica gel chromatography (1:9, ethyl acetate:hexanes) afforded 0.460 g of 4-chloro-N-[2,5-dichlorophenyl}-N-[4-(ethylthio)]-1-(R)-methylbutyl]benzenesulfonamide as a yellow oil in 59% yield. LC/MS 466.

reactant | NaH | 1.03 mmol, 0.025 g | [H-].[Na+]
reactant | ethanethiol | 1.54 mmol, 0.096 g | C(C)S | C2H6S
reactant | 4-chloro-N-[2,5-dichlorophenyl]-N-[(R)-1-methyl-4-bromobutyl]benzenesulfonamide | 1.03 mmol, 0.500 g | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCBr)C)C1=C(C=CC(=C1)Cl)Cl | C17H17BrCl3NO2S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | benzenesulfonamide | 59% yield | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
